2101-01-12 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2101-1-11**] 07:01 PM
   [**2101-1-11**] Events:
   - CXR showed no change in location of foreign body
   Contact[**Name (NI) **] the patient
s mother [**Name (NI) **] [**Name (NI) 3432**] at ([**Telephone/Fax (1) 3437**].  She
   is willing to consent for procedures, however is very distressed by
   this situation.  She is not feeling well herself and recent was
   admitted to a psychiatric facility for suicidal ideation herself.  She
   reports that Mr. [**Known lastname 3432**] attempted a suicide attempt one year ago with
   placing a garden hose into his exhaust pipe.  She also reports that he
   recently has not been acting like himself.  She reports he is
out of
   control
 and determined to
destroy
 his brother
s career.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-1-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-1-12**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 53 (44 - 63) bpm
   BP: 119/64(77) {85/53(60) - 120/100(104)} mmHg
   RR: 14 (11 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,873 mL
                                                                    802 mL
   PO:
             TF:
   IVF:
                                                                    373 mL
                                                                    802 mL
   Blood products:
   Total out:
                                                                    205 mL
                                                                    300 mL
   Urine:
                                                                    205 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,668 mL
                                                                    502 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 580 (550 - 580) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.35/42/82.[**Numeric Identifier **]/27/-2
   Ve: 8.3 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   237 K/uL
   13.4 g/dL
   83 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.5 mEq/L
   12 mg/dL
   106 mEq/L
   144 mEq/L
   38.3 %
   9.6 K/uL
        [image002.jpg]
                             [**2101-1-11**]  08:58 PM
                             [**2101-1-12**]  02:17 AM
   WBC
   9.6
   Hct
   38.3
   Plt
   237
   Cr
   1.0
   TCO2
   24
   Glucose
   90
   83
   Other labs: PT / PTT / INR:14.3/29.9/1.2, Differential-Neuts:70.5 %,
   Lymph:20.9 %, Mono:6.0 %, Eos:1.7 %, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   40M unknown PMH presents after MVC as unrestrained driver, found to
   have foreign body in esophagus and cecum, intubated for agitation.
   .
   # Foreign body: Located within esophagus and cecum. GI on board.  Will
   likely extract the coin today.  Unclear circumstances surrounding
   ingestion, could be due to collision although similar cecal foreign
   body suggests prior intentional ingestion.
   - GI consulted, endoscopic intervention today
   - Remain intubated on propofol GI intervention
   - Clarify history with patient once extubated
   .
   # MVC: No clear traumatic injuries from head on crash with tree and
   unrestrained driver. Some indication that may have been suicide
   attempt.
   - f/u final CT scan reads
   - Psych consult once extubated to determine circumstances around
   accident
   - Appreciate SW help in obtaining family information
   .
   # Tox screen: Positive for benzos and agitated in ED concerning for
   intoxication or withdrawal, although no current signs after receiving
   ativan and propofol. EtOH negative on arrival.
   - Follow for signs withdrawal
   - Continue propofol
   - Ativan prn for agitation or CIWA>10
   - Thiamine IV, folate
   .
   # Sinus bradycardia: Likely due to sedation from benzos and propofol.
   Will lighten and monitor on tele. Check 12-lead ECG to confirm tele
   monitoring.
   .
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:
   Lines:
   16 Gauge - [**2101-1-11**] 08:30 PM
   18 Gauge - [**2101-1-11**] 08:30 PM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:  PPI
   Communication:  Comments:  Mother, [**Name (NI) **] [**Name (NI) 3432**] ([**Telephone/Fax (1) 3437**]
   Code status:  Full Code
   Disposition:  Remain in the ICU until FB removal

2101-01-13 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2101-1-12**] 03:00 PM
   upper endoscopy, pt tolerated well.  FB located within esophagus,
   removed and sent to pathology lab.  Pt tolerated well.
 INVASIVE VENTILATION - STOP [**2101-1-12**] 06:00 PM
   [**2100-1-11**] Events:
   -Successfully extubated, remained aggitated despite security presence.
   Spit in face of security, placed in 4 pt restraints received haldol and
   ativan.  Became aggitated again at night, given additional 5 of haldol
   and 5 ativan.  Suspect benzo withdrawal-patient states he takes 10 mg
   Klonopin and 10 Xanax QD. Was tachy,hypertensive and had temp of 100.4.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-1-12**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2101-1-12**] 04:00 PM
   Haloperidol (Haldol) - [**2101-1-12**] 10:30 PM
   Lorazepam (Ativan) - [**2101-1-12**] 10:40 PM
   Diazepam (Valium) - [**2101-1-13**] 06:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-1-13**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 102 (51 - 118) bpm
   BP: 119/80(90) {91/47(58) - 164/80(94)} mmHg
   RR: 19 (10 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,337 mL
                  PO:
                  TF:
   IVF:
                                                                  2,337 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    260 mL
   Urine:
                                                                  1,325 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,012 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 580 (580 - 580) mL
   Vt (Spontaneous): 827 (827 - 827) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   237 K/uL
   13.4 g/dL
   83 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.5 mEq/L
   12 mg/dL
   106 mEq/L
   144 mEq/L
   38.3 %
   9.6 K/uL
        [image002.jpg]
                             [**2101-1-11**]  08:58 PM
                             [**2101-1-12**]  02:17 AM
   WBC
   9.6
   Hct
   38.3
   Plt
   237
   Cr
   1.0
   TCO2
   24
   Glucose
   90
   83
   Other labs: PT / PTT / INR:14.3/29.9/1.2, Differential-Neuts:70.5 %,
   Lymph:20.9 %, Mono:6.0 %, Eos:1.7 %, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   40M unknown PMH presents after MVC as unrestrained driver, found to
   have foreign body in esophagus and cecum, intubated for agitation.
   .
   # Foreign body: Located within esophagus and cecum. GI on board.  Will
   likely extract the coin today.  Unclear circumstances surrounding
   ingestion, could be due to collision although similar cecal foreign
   body suggests prior intentional ingestion.
   - GI consulted, endoscopic intervention today
   - Remain intubated on propofol GI intervention
   - Clarify history with patient once extubated
   .
   # MVC: No clear traumatic injuries from head on crash with tree and
   unrestrained driver. Some indication that may have been suicide
   attempt.
   - f/u final CT scan reads
   - Psych consult once extubated to determine circumstances around
   accident
   - Appreciate SW help in obtaining family information
   .
   # Tox screen: Positive for benzos and agitated in ED concerning for
   intoxication or withdrawal, although no current signs after receiving
   ativan and propofol. EtOH negative on arrival.
   - Follow for signs withdrawal
   - Continue propofol
   - Ativan prn for agitation or CIWA>10
   - Thiamine IV, folate
   .
   # Sinus bradycardia: Likely due to sedation from benzos and propofol.
   Will lighten and monitor on tele. Check 12-lead ECG to confirm tele
   monitoring.
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2101-1-11**] 08:30 PM
   18 Gauge - [**2101-1-11**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: